US07138401B2
Step 1: (5-Chloro-6-methoxy-pyridin-3-yl)-methanol
(5,6-Dichloro-pyridin-3-yl)-methanol was dissolved in a saturated solution of NaOMe in MeOH and heated to reflux overnight. Evaporation of MeOH, work-up (EtOAc) and evaporation gave the title compound. 1H-NMR (CDCl3) δ 8.03 (d, 1H), 7.72 (d, 1H), 4.65 (s, 2H), 4.04 (s, 3H).

reactant | (5,6-Dichloro-pyridin-3-yl)-methanol | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | (5-Chloro-6-methoxy-pyridin-3-yl)-methanol | ClC=1C=C(C=NC1OC)CO | C7H8ClNO2
